US04735940
A mixture of 0.855 g of 5,6-dihydro-3-hydroxy-2-phenylthiazolo[3,2-a]thieno[2,3-c]pyridinium hydroxide (internal salt) and 0.65 ml of 3,3-diethoxypropyne in 30 ml of cyclohexanone was stirred with a few crystals of p-toluenesulfonic acid at 130° for 3 hours under an inert gas and then concentrated in vacuo. The residue was taken up in ethyl acetate, washed with 10 percent potassium bicarbonate solution and saturated sodium chloride solution, dried over magnesium sulfate, concentrated and chromatographed on silica gel with toluene/acetonitrile (19:1). By crystallization from dioxane, there is obtained 4,5-dihydro-7-oxo-8-phenyl-7H-thieno[2,3-a]quinolizine-10-carboxaldehyde of m.p. 213°-215°.

reactant | 5,6-dihydro-3-hydroxy-2-phenylthiazolo[3,2-a]thieno[2,3-c]pyridinium hydroxide | 0.855 g | [OH-].OC1=C(SC2=[N+]1CCC1=C2SC=C1)C1=CC=CC=C1
reactant | 3,3-diethoxypropyne | 0.65 ml | C(C)OC(C#C)OCC | C7H12O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | cyclohexanone | 30 ml | C1(CCCCC1)=O | C6H10O
product | 4,5-dihydro-7-oxo-8-phenyl-7H-thieno[2,3-a]quinolizine-10-carboxaldehyde | O=C1N2CCC3=C(C2=C(C=C1C1=CC=CC=C1)C=O)SC=C3 | C18H13NO2S
